US06723747B2
12-Bromo-6H-dibenzo[c,h]chromene-1,8-diol
The title compound was prepared by reacting 1-(Acetyloxy)-6H-dibenzo[c,h]chromen-8-yl acetate (510 mg, 1.46 mmol), NBS (315 mg, 1.77 mmol), and anhydrous DMF (30 ml) at room temperature for 1.5 hours according to method B. The reaction was concentrated under reduced pressure, dissolved in MeOH (30 ml), and NH3 was bubbled in for 1.5 h while acetate removal was monitored by LC-MS. The reaction was concentrated to a dark sludge and purified by silica chromatography (1:1 EtOAc:hexanes) to afford 340 mg (68%) of product as a tan solid. Mp: decomposes above 130° C.; 1H NMR (500 MHz, DMSO-d6) δ 5.23 (2H, s), 6.72 (1H, d, J=1.9 Hz), 6.81 (1H, dd, J=8.2 Hz, 2.5 Hz), 6.92 (1H, dd, J=7.7 Hz, 1.1 Hz), 7.33 (1H, t, J=8.0 Hz), 7.64 (1H, dd, J=8.5 Hz, 1.1 Hz), 7.68 (1H, d, J=8.5 Hz), 8.01 (1H, s), 9.78 (1H, s), 10.15 (1H, s); MS m/z341/343 (Br pattern) (M−H+).

reactant | 1-(Acetyloxy)-6H-dibenzo[c,h]chromen-8-yl acetate | 1.46 mmol, 510 mg | C(C)(=O)OC=1C=CC2=C(COC3=C4C(=CC=C23)C(=CC=C4)OC(C)=O)C1 | C21H16O5
reactant | NBS | 1.77 mmol, 315 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 12-Bromo-6H-dibenzo[c,h]chromene-1,8-diol | BrC1=CC=2C3=C(COC2C=2C1=C(C=CC2)O)C=C(C=C3)O | C17H11BrO3
